US06656971B2
3,5-Di(benzyloxy)-3′-(trifluoromethyl)benzanilid.
(Examplary Compound 8). The title compound was prepared according to the procedure of Scheme I-A, starting from 3,5-bis(benzyloxy)benzoic acid chloride and 3-(trifluoromethyl)aniline in THF solution. White solid, yield 0.250 g (69%). 1H NMR (DMSO-d6, 400 MHz), δ: 10.47 (s, 1H); 8.24 (s, 1H); 8.06 (d, J=8.3 Hz, 1H); 7.60 (t, J=8.0 Hz, 1H); 7.51-7.32 (m, 11H); 7.25 (s, 2H); 6.95 (s, 1H); 5.18 (s, 4H). Anal: Calcd. for C28H22F3NO3: 70.43; H, 4.64; N, 2.93. Found: C, 70.58; H, 4.67; N, 2.91.

reactant | 3,5-bis(benzyloxy)benzoic acid chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=C(C1)OCC1=CC=CC=C1 | C21H17ClO3
reactant | 3-(trifluoromethyl)aniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | THF | C1CCOC1 | C4H8O
product | 3,5-Di(benzyloxy)-3′-(trifluoromethyl)benzanilid | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C(C1)OCC1=CC=CC=C1 | C28H22F3NO3
